US09216968B2
TFA (1 mL) was added to a solution of tert-butyl N-{4-[(3-chloro-2-methylphenyl)carbamoyl]-6-({[2-(trifluoro methyl)phenyl]carbonyl}amino)-1H-benzimidazol-2-yl}glycinate (95 mg) in methylene chloride (2 mL), and the mixture was stirred for 1 hour at room temperature, and concentrated. The residue was neutralized with 1N aqueous NaOH under ice-cooling and extracted with EtOAc. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified on column chromatography to obtain N-{4-[(3-chloro-2-methylphenyl)carbamoyl]-6-({[2-(trifluoro methyl)phenyl]carbonyl}amino)-1H-benzimidazol-2-yl}glycine (50 mg) as white powder. N-{4-[(3-chloro-2-methylphenyl)carbamoyl]-6-({[2-(trifluoro methyl)phenyl]carbonyl}amino)-1H-benzimidazol-2-yl}glycine (16 mg) was suspended in MeOH. To the suspension was added 2N hydrogen chloride/EtOH solution (1 Eq) to obtain a homogeneous solution. The solvent was removed under reduced pressure. The residue was triturated in diethyl ether, and the precipitate was collected by filtration and dried to obtain the titled compound (12 mg) as white powder.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl N-{4-[(3-chloro-2-methylphenyl)carbamoyl]-6-({[2-(trifluoro methyl)phenyl]carbonyl}amino)-1H-benzimidazol-2-yl}glycinate | 95 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)NCC(=O)OC(C)(C)C)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C29H27ClF3N5O4
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[(3-chloro-2-methylphenyl)carbamoyl]-6-({[2-(trifluoro methyl)phenyl]carbonyl}amino)-1H-benzimidazol-2-yl}glycine | 50 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)NCC(=O)O)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C25H19ClF3N5O4
